US05151497
1,4,4-Tricarboethoxy-3-oxospiro[4.5]decane (990 mg), water (196 μl) and lithium chloride (350 mg) were dissolved in dimethylsulfoxide (25 ml), and the mixture was stirred at 170° C. for 4 hours. After cooling to room temperature, saturated brine (40 ml) was added and the mixture was extracted with ethyl acetate. The organic layer was separated, dried over magneium sulfate and concentrated to dryness. The residue was purified through silica gel column chromatography (hexane-ethyl acetate=5:1) to give pure 1-carboethoxy-3-oxospiro[4.5]decane (450 mg), which was added to 5N hydrochloric acid (20 ml), and the mixture was refluxed for 3 hours. After cooling to room temperature, the mixture was concentrated and the residue was adjusted to pH 10 with aqueous solution of sodium hydroxide, followed by washing with ether. The aqueous layer was acidified with 5N hydrochloric acid to pH 2, followed by extraction with ether. The ethereal solution was dried, and concentrated to dryness to afford the title compound (310 mg) as colorless crystals.

reactant | 1,4,4-Tricarboethoxy-3-oxospiro[4.5]decane | 990 mg | C(=O)(OCC)C1CC(C(C12CCCCC2)(C(=O)OCC)C(=O)OCC)=O | C19H28O7
reactant | water | 196 μl | O | H2O
reactant | lithium chloride | 350 mg | [Cl-].[Li+]
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | brine | 40 ml | [Cl-].[Na+].O
product | 1-carboethoxy-3-oxospiro[4.5]decane | 450 mg | C(=O)(OCC)C1CC(CC12CCCCC2)=O | C13H20O3
